US05300537
184.0 g (1.76 mol) of methacryloyl chloride were added dropwise in the course of 2 hours to an initial mixture, cooled to -72° C., consisting of 206.2 g (1.76 mol) of N-(3-hydroxypropyl)-acetamide, 750 ml of methylene chloride, 228 g (2.25 mol) of triethylamine and 250 mg of 2,6-di-tert.butyl-4-methylphenol. The mixture was stirred for a further 2 hours at -52° C. and the precipitated pale precipitate was then filtered off with suction at 0° C. The filtrate was subjected to aqueous work-up and the product was dried and, after concentrating on a rotary evaporator, distilled first at 100° C., and then the residue at 130° C. (in each case 0.1 mm Hg). 174.1 g (53% of theory) of 3- acetamidopropyl methacrylate were obtained in the form of a colorless oil.

reactant | methacryloyl chloride | 1.76 mol, 184.0 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | N-(3-hydroxypropyl)-acetamide | 1.76 mol, 206.2 g | OCCCNC(C)=O | C5H11NO2
reactant | triethylamine | 2.25 mol, 228 g | C(C)N(CC)CC | C6H15N
catalyst | 2,6-di-tert.butyl-4-methylphenol | 250 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | methylene chloride | 750 ml | C(Cl)Cl | CH2Cl2
product | 3- acetamidopropyl methacrylate | 174.1 g, 53% | C(C(=C)C)(=O)OCCCNC(C)=O | C9H15NO3
